US08022062B2
Use a method similar to the General Procedure 5-3, to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (851 mg, 2.0 mmol) and (±)-4-(1-phenyl-ethoxy)-benzylamine (721 mg, 2.6 mmol). Purify by chromatography on silica gel eluting with EtOAc/hexane (1:8) to give (±)-7-chloro-6-[4-(1-phenyl-ethoxy)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (702 mg, 69%). MS (ES+) m/z: 503 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.0 mmol, 851 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | (±)-4-(1-phenyl-ethoxy)-benzylamine | 2.6 mmol, 721 mg | C1(=CC=CC=C1)C(C)OC1=CC=C(CN)C=C1 | C15H17NO
product | (±)-7-chloro-6-[4-(1-phenyl-ethoxy)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 702 mg, 69% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)OC(C)C1=CC=CC=C1 | C27H26ClF3N2O2
